US05929117
3-(3,4-Dimethoxyphenyl)-3-(4'-nitrophenyl)acrylonitrile was prepared analogously to methyl 3,3-bis-(3',4'-dimethoxyphenyl)acrylate using 3,4-dimethoxy-4'nitrobenzophenone (4 g, 14 mmol), diethylcyanomethylphosphonate (2.5 mL, 15.4 mmol) and lithium hexamethyldisilazide (11.8 mL, 15.4 mmol, 1.3M) with a reaction time of 17 hours at room temperature. The crude product was purified by chromatography (silica gel, 3% hexane/methylene chloride) to afford 2.38 g (55%) of a mixture of the E and Z isomers as a yellow solid: mp 117.5-120° C.; 1H NMR (CDCl3) δ 8.40-8.20 (m, 4H), 7.70-7.46 (m, 4H), 7.06-6.75 (m,6H), 5.84 (s, 1H), 5.70 (s, 1H), 3.95 (s, 3H), 3.93 (s, 3H), 3.88 (s, 3H), 3.85 (s, 3H); 13C NMR (CDCl3) δ 160.3, 151.7, 151.1, 149.2, 148.9, 148.7, 148.5, 148.5, 143.5, 130.6, 129.9, 129.6, 128.2, 123.7, 123.1, 122.2, 117.4, 117.3, 112.3, 111.0, 110.5, 96.2, 94.9, 56.0, 56.0; Anal. Calcd for C17H14N2O4. Theoretical: C, 65.80; H, 4.55; N, 9.03. Found: C, 65.45; H, 4.66; N, 8.82.

reactant | methyl 3,3-bis-(3',4'-dimethoxyphenyl)acrylate | COC=1C=C(C=CC1OC)C(=CC(=O)OC)C1=CC(=C(C=C1)OC)OC | C20H22O6
reactant | 3,4-dimethoxy-4'nitrobenzophenone | 14 mmol, 4 g | COC=1C=C(C(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=CC1OC | C15H13NO5
reactant | diethylcyanomethylphosphonate | 15.4 mmol, 2.5 mL | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | lithium hexamethyldisilazide | 15.4 mmol, 1.3M, 11.8 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
product | 3-(3,4-Dimethoxyphenyl)-3-(4'-nitrophenyl)acrylonitrile | COC=1C=C(C=CC1OC)C(=CC#N)C1=CC=C(C=C1)[N+](=O)[O-] | C17H14N2O4
